US07432378B2
5-tert-Butyl-2-{3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-1H-benzoimidazole
This compound was prepared by the method described in Example 1, using 3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzaldehyde (516 mg, 1.87 mmol, 1.0 equiv), 4-tert-butyl-benzene-1,2-diamine (307 mg, 1.87 mmol, 1.0 equiv), and Na2S2O5 (461 mg, 2.43 mmol, 1.3 equiv) in General Procedure 3. Purification by Method 2 afforded 633 mg (81%) of the title compound. MS (electrospray): mass calculated for C26H36N4O, 420.29; m/z found, 421.5 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.90-7.85 (m, 2H), 7.65-7.40 (m, 2H), 7.33 (d, J=8.5 Hz, 1H), 7.04 (d, J=8.1 Hz, 1H), 4.14-4.11 (m, 2H), 2.90-2.28 (m, 16H), 2.06-2.03 (m, 2H), 1.39 (s, 9H).

reactant | 3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzaldehyde | 1.87 mmol, 516 mg, 1.0 equiv | CC=1C=C(C=O)C=CC1OCCCN1CCN(CC1)C | C16H24N2O2
reactant | 4-tert-butyl-benzene-1,2-diamine | 1.87 mmol, 307 mg, 1.0 equiv | C(C)(C)(C)C=1C=C(C(=CC1)N)N | C10H16N2
product | 5-tert-Butyl-2-{3-methyl-4-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-1H-benzoimidazole | 633 mg, 81% | C(C)(C)(C)C1=CC2=C(NC(=N2)C2=CC(=C(C=C2)OCCCN2CCN(CC2)C)C)C=C1 | C26H36N4O
